US07906528B2
To a solution of {(E)-2-[2-(2,6-dimethyl-phenyl)-5-nitro-pyridin-4-yl]-vinyl}-dimethyl-amine (10 g, 33.6 mmol) in glacial acetic acid (150 mL), zinc dust (22 g, 336 mmol) is added and the mixture is stirred at room temperature for 1 h. Temperature is raised to 90° C. at which the mixture is maintained for another 30 min. The resultant suspension is filtered over celite and concentrated under reduced pressure to afford 5-(2,6-dimethyl-phenyl)-1H-pyrrolo[2,3-c]pyridine as a brown solid.

reactant | {(E)-2-[2-(2,6-dimethyl-phenyl)-5-nitro-pyridin-4-yl]-vinyl}-dimethyl-amine | 33.6 mmol, 10 g | CC1=C(C(=CC=C1)C)C1=NC=C(C(=C1)/C=C/N(C)C)[N+](=O)[O-] | C17H19N3O2
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 336 mmol, 22 g | [Zn] | Zn
product | 5-(2,6-dimethyl-phenyl)-1H-pyrrolo[2,3-c]pyridine | CC1=C(C(=CC=C1)C)C=1C=C2C(=CN1)NC=C2 | C15H14N2
